US09376454B2
Step 8. Synthesis of 2-(2-benzyloxycarbonylisoindolin-5-yl)acetic acid
To a solution of benzyl 5-(2-oxoethyl)isoindoline-2-carboxylate (290 mg, Immol) in tert-butanol (10 mL) was added 2,3-dimethyl-but-2-ene (1.1 mL). To this mixture was added a solution comprising sodium dihydrogenphosphate hydrate (1.08 g, 8 mmol) and sodium chlorite (1.08 g, 9.5 mmol tech grade). This mixture was stirred for 20 min diluted with ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by silica chromatography (25 g silica eluted with 3-20% methanol in dichloromethane) to give the title compound as a white solid.

reactant | benzyl 5-(2-oxoethyl)isoindoline-2-carboxylate | 290 mg | O=CCC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C18H17NO3
reactant | 2,3-dimethyl-but-2-ene | 1.1 mL | CC(C)=C(C)C | C6H12
reactant | sodium dihydrogenphosphate hydrate | 8 mmol, 1.08 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 9.5 mmol, 1.08 g | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-benzyloxycarbonylisoindolin-5-yl)acetic acid | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2C1)CC(=O)O | C18H17NO4
